US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfinylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 85 from N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide and 3-chloroperoxybenzoic acid in dichloromethane/glacial acetic acid. Yield: 57%; Rf value: 0.15 (silica gel; dichloromethane/ethanol=9:1); C24H27ClN4O3S (487.02); mass spectrum: (M+H)+=487/489 (chlorine isotope).

reactant | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCSC)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C24H27ClN4O2S
reactant | 3-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | dichloromethane ethanol | ClCCl.C(C)O
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfinylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 57% | ClC1=CC2=C(NC(=N2)[C@H](CCS(=O)C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C24H27ClN4O3S
